US06258812B1
1-(3.4-Dimethylanilino)-4-(4-pyridylmethyl)phthalazine
A mixture of 1.80 g (12.68 mmol) phosphorus pentoxide, 1.73 g (12.6 mmol) triethylamine hydrochloride, and 1.529 g (12.6 mmol) 3,4-dichloromethylaniline is heated and stirred in a nitrogen atmosphere at 200° C. until a homogeneous melt has formed. To the melt, 1 g (4.2 mmol) of 4-(4-pyridylmethyl)-1 (2H)-phthalazinone (for preparation see German Auslegeschrift no. 1 061 788 [published 23.07.1959]) is added and the mixture stirred for 4 h at 200° C. After slight cooling, 4 ml tetramethylurea is added to the reaction mixture, followed by 2 ml water at about 120° C. The solution obtained is then distributed between dichloro methane and a mixture of 20 ml water and 5 ml conc. ammonia, and the organic phase dried over anhydrous sodium sulfate, filtered and evaporated under vacuum. Double recrystallization of the residue from acetonitrile and drying under HV (8 h, 1 20° C.) yields title compound; m.p. 180-181° C.; ESI-MS: (M+H)+=341.

reactant | phosphorus pentoxide | 12.68 mmol, 1.80 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | triethylamine hydrochloride | 12.6 mmol, 1.73 g | Cl.C(C)N(CC)CC
reactant | 3,4-dichloromethylaniline | 12.6 mmol, 1.529 g | ClCC=1C=C(N)C=CC1CCl | C8H9Cl2N
reactant | 4-(4-pyridylmethyl)-1 (2H)-phthalazinone | 4.2 mmol, 1 g | N1=CC=C(C=C1)CC1=NNC(C2=CC=CC=C12)=O | C14H11N3O
reactant | tetramethylurea | 4 ml | CN(C(N(C)C)=O)C | C5H12N2O
reactant | ammonia | 5 ml | N | H3N
solvent | water | 20 ml | O | H2O
solvent | dichloro methane | ClCCl | CH2Cl2
solvent | water | 2 ml | O | H2O
product | 1-(3.4-Dimethylanilino)-4-(4-pyridylmethyl)phthalazine | CC=1C=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=CC1C | C22H20N4
